US04179508
4,4-Dimethyl-2-(4-butylmercapto-butyl)-2H,4H-isoquinoline-1,3-dione by method B
1 gm of sodium was dissolved in 100 ml of ethanol, 3.7 gm of n-butylmercaptan were added dropwise to the solution, and a solution of 12 gm of 4,4-dimethyl-2-(4-chloro butyl)-2H,4H-isoquinoline-1,3-dione was slowly added. After refluxing the mixture for 3 hours, the precipitate was filtered off, the filtrate was evaporated, the residue was poured into ice water, and the aqueous mixture was acidified and extracted with chloroform. The chloroform phases were evaporated, whereby an oily crude product was obtained (13.0 gm, 98% of theory), which was purified by chromatography on silicagel (eluant: chloroform).

reactant | sodium | 1 gm | [Na] | Na
reactant | n-butylmercaptan | 3.7 gm | C(CCC)S | C4H10S
reactant | 4,4-dimethyl-2-(4-chloro butyl)-2H,4H-isoquinoline-1,3-dione | 12 gm | CC1(C(N(C(C2=CC=CC=C12)=O)CCCCCl)=O)C | C15H18ClNO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4,4-Dimethyl-2-(4-butylmercapto-butyl)-2H,4H-isoquinoline-1,3-dione | CC1(C(N(C(C2=CC=CC=C12)=O)CCCCSCCCC)=O)C | C19H27NO2S
